US07109197B2
[4-(2-Amino-pyridin-4-yl)-pyrimidin-2-yl]-(3-chloro-phenyl)-amine
A suspension of (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine (10.0 g, 0.03 mol) in dioxane (150 ml) and ammonia (20 g) is heated in an autoclave at 200° C. for 48 hours. The reaction mixture is partitioned between ethyl acetate and water. The organic phase is evaporated under reduced pressure and the product is purified by chromatography on silicagel.

reactant | (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.03 mol, 10.0 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
reactant | ammonia | 20 g | N | H3N
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | [4-(2-Amino-pyridin-4-yl)-pyrimidin-2-yl]-(3-chloro-phenyl)-amine | NC1=NC=CC(=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)Cl | C15H12ClN5
